US05191132
Preparation of 1,2-bis(9-fluorenyl)ethane
About 8.3 g (0.05 m) of fluorene was dissolved in 150 ml of tetrahydrofuran. Then 31.8 ml (0.05 m) of butyl lithium (1.6 molar in hexane) was added dropwise to this solution. After one hour, 2.3 ml (0.25 m) of dibromoethane in 25 ml of tetrahydrofuran was added. The solution was stirred for 3 hours. The yellow solution was washed with 50 ml of an aqueous NH4Cl solution (5 g NH4Cl/50 ml H2O), then washed with 50 ml of water and then the organic phase was dried over Na2SO4. Then the solvent was removed in vacuo. The light yellow residue was washed twice with 25 ml of pentane. The resulting product was white. The yield was 12.5 g, i.e. a yield of about 70%, based on the moles of fluorene reacted. The product was confirmed through 1H NMR, 13C NMR, mass spectroscopy, and gas chromatography.

reactant | fluorene | 8.3 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | butyl lithium | 1.6 molar, 31.8 ml | C(CCC)[Li]
reactant | dibromoethane | 2.3 ml | BrC(C)Br | C2H4Br2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1,2-bis(9-fluorenyl)ethane | yield of about 70% | C1=CC=CC=2C3=CC=CC=C3C(C12)CCC1C2=CC=CC=C2C=2C=CC=CC12 | C28H22
